* two_stage_rz_pre testbench
* INTAKE MODIFIED: .include "two_stage_rz.sp" -> "../netlist/two_stage_rz.sp" (netlist filed under netlist/)
.lib "/Users/cherrysun/pdk/manual/sky130A/libs.tech/ngspice/sky130.lib.spice" tt

.subckt two_stage_amp Vip Vin VDD VSS vout
.include "../netlist/two_stage_rz.sp"
X0 Vip Vin VDD VSS vout two_stage_rz
.ends

.param vcm=0.9
.param cload=10.0p

xtwo_stage_amp (Vip Vin VDD VSS vout) two_stage_amp ;

vsrc in 0 dc=0 ac=1.0
ein1 Vip cm in 0 0.5
ein2 Vin cm in 0 -0.5
vcm cm 0 dc=vcm

vdd VDD 0 dc=1.8
vss 0 VSS dc=0
CL vout 0 {cload}

.ac dec 10 1 10G

* CORRECTION (schematic-agent #4a) -- REQUIRED BY SPEC KEY: Power
* target_spec.json sets Power CEILING 0.5813 mW, but the deck as supplied had
* neither an operating-point analysis nor a save of the supply current, so the
* key had no number at all (design-sheets-checker 4c: TESTBENCH INCOMPLETE).
* Added below: `op` after the AC `write`, then a `wrdata` save of i(vdd)
* (wrdata, not write -- it is the format process_*_results.py's op_power_mw reads).
* This RECORDS the operating condition the deck already sets (VDD=1.8V,
* vcm=0.9V, CL=10p, tt corner) -- no new condition is assumed. The AC analysis,
* its `write` line, and every source/value above are untouched.
.control
    run
    set filetype=ascii
    write ./simout_golden.out v(vout)
    op
    wrdata ./two_stage_rz_pre_op.txt i(vdd)
    quit
.endc

.end
